US07772285B2
4.00 g of 1-bromo-4-[(methoxymethoxy)methyl]-2-methylbenzene was dissolved in 40 mL of tetrahydrofuran, to which 11.5 mL of a solution of n-butyllithium in n-hexane (1.56 M) was added dropwise at −65 to −60° C., and then this mixture was stirred for 30 minutes at −65° C. Then, 20 mL of N,N-dimethylformamide was added dropwise thereto at −65 to −40° C., and a temperature of this reaction mixture was raised to room temperature over one hour and was stirred for another one hour at room temperature. Water was added to the reaction mixture and adjusted to pH 5 with 6M hydrochloric acid, followed by addition thereto of ethyl acetate, and then the organic phase was separated therefrom. After the resultant organic phase was washed with water and a saturated sodium chloride solution successively, the washed phase was dried over anhydrous magnesium sulfate, and the solvent was distilled out under reduced pressure. The resultant residue was purified by silica gel column chromatography [eluent; hexane:ethyl acetate=5:1] to yield 1.54 g of 4-[(methoxymethoxy)methyl]-2-methylbenzaldehyde as colorless oil.

reactant | 1-bromo-4-[(methoxymethoxy)methyl]-2-methylbenzene | 4.00 g | BrC1=C(C=C(C=C1)COCOC)C | C10H13BrO2
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
reactant | Water | O | H2O
reactant | hydrochloric acid | 6M | Cl | ClH
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | n-butyllithium | C(CCC)[Li]
solvent | n-hexane | 1.56 M | CCCCCC | C6H14
product | 4-[(methoxymethoxy)methyl]-2-methylbenzaldehyde | 1.54 g | COCOCC1=CC(=C(C=O)C=C1)C | C11H14O3
